US07737149B2
A mixture of 5-bromothiophene-2-carboxaldehyde (3.82 g, 20.0 mmol), tert-butyl piperazine-1-carboxylate (4.1 g, 22.0 mmol), N-ethyl-N,N-diisopropylamine (7.0 ml, 40.0 mmol) and dimethylsulphoxide (5.0 ml) were stirred at 130° C. under an atmosphere of nitrogen for 18 h. The cooled mixture was partitioned between ethyl acetate and water. The organics were washed with water, brine, dried over magnesium sulphate and evaporated. The resultant dark red solid was purified by silica column chromatography, eluting with dichloromethane followed by ethyl acetate/dichloromethane (15%) to give tert-butyl 4-(5-formylthien-2-yl)piperazine-1-carboxylate (4.3 g, 73%).

reactant | 5-bromothiophene-2-carboxaldehyde | 20.0 mmol, 3.82 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | tert-butyl piperazine-1-carboxylate | 22.0 mmol, 4.1 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N-ethyl-N,N-diisopropylamine | 40.0 mmol, 7.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylsulphoxide | 5.0 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-(5-formylthien-2-yl)piperazine-1-carboxylate | 4.3 g, 73% | C(=O)C1=CC=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N2O3S
